US06110962
This is a modification of the procedure of Schuster, Ingeborg I.; Parvez, Masood; Freyer, Alan J. J. Org. Chem. 1988, 53, 5819. A solution of bromine (6.3 mL, 119 mmol) in acetic acid (40 mL) was added dropwise to a stirred, room temperature solution of 2,6-diisopropylphenol (20 mL, 97.1 mmol of 90% tech. grade) in acetic acid (280 mL). After 6 h, water was added and the mixture was extracted with ether. The ether phase was dried and concentrated and the residue was flash chromatographed (petroleum ether: eluent) to provide 4-bromo-2,6-diisopropylphenol (16.2 g, 65%) as a red oil. This oil was dissolved in DMF (50 mL), iodomethane (11.7 mL, 189 mmol) and potassium carbonate (26.3 g, 117 mL) were added to it. This reaction mixture was stirred for 5 h and diluted with water. This mixture was extracted with ether and the ether extracts were dried, concentrated and flash chromatographed (petroleum ether: eluent) to provide the title compound as a colorless oil (15.4 g, 90%): NMR (CDCl3); δ 7.17 (s, 2H), 3.70 (s, 3H), 3.29 (septet, 1H), 1.20 (d, 12 H).

reactant | bromine | 119 mmol, 6.3 mL | BrBr | Br2
reactant | 2,6-diisopropylphenol | 97.1 mmol, 20 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)O | C12H18O
reactant | water | O | H2O
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 280 mL | C(C)(=O)O | C2H4O2
product | 4-bromo-2,6-diisopropylphenol | 16.2 g, 65% | BrC1=CC(=C(C(=C1)C(C)C)O)C(C)C | C12H17BrO
